US08471005B2
(S)-2-{2-Chloro-5-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenoxymethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester
This example was prepared by using (S)-2-(5-Amino-2-chloro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester (J. Med. Chem. 2007, 50, 4353) and 7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol as described in Example 1255c. 1H-NMR (CDCl3) δ 8.7 (brs, 1H), 8.6 (m, 1H), 8.4 (d, J=8.0 Hz, 1H), 8.0 (d, J=8.0 Hz, 1H), 7.7 (t, 1H), 7.5-7.0 (m, 5H), 4.1-3.9 (m, 3H), 3.5-3.2 (m, 2H), 3.0 (s, 3H), 2.2 (m, 3H), 1.9 (m, 1H); LC/MS (ESI+): 598 (M+H).

reactant | (S)-2-(5-Amino-2-chloro-phenoxymethyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)N)Cl | C16H23ClN2O3
reactant | 7-(3-Methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ol | CS(=O)(=O)C=1C=C(C=CC1)C1=CC=C2C=NC(=NN21)O | C13H11N3O3S
product | (S)-2-{2-Chloro-5-[7-(3-methanesulfonyl-phenyl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenoxymethyl}-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=C(C=CC(=C1)NC1=NN2C(C=N1)=CC=C2C2=CC(=CC=C2)S(=O)(=O)C)Cl | C29H32ClN5O5S
